US07314886B2
57.A. Synthesis of 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propan-1-ol
A solution of ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate(0.18 g, 0.46 mmol) in anhydrous diethyl ether (15 ml) was stirred at room temperature under a nitrogen atmosphere. LiAlH4 (0.09 g, 2.4 mmol) was slowly added to the solution. The mixture was stirred for 18 hr, quenched with water and 5% HCl, extracted with EtOAc, dried over MgSO4, and concentrated under reduced pressure. The crude product was purified by silica gel flash column chromatography hexane/EtOAc (4:6) twice to give (31 mg) of the product (0.031 g, 20%). 1H NMR (300 MHz, CDCl3) δ 7.70 (br, NH), 7.18 (d, 1H), 6.91 (d, 1H), 4.03 (m, 2H), 3.73 (m, 4H), 3.17 (m, 1H), 2.80 (m, 6H), 2.18 (m, 1H), 1.98 (m, 3H), 1.37 (d, 6H), 1.26 (br, 1H), 0.94 (t, 3H); ESI (+) MS m/e=346 (MH+), ESI (−) MS m/e=344 (MH−).

reactant | ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate | 0.46 mmol, 0.18 g | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)CCC(=O)OCC)C(C)C)CCO | C23H33NO4
reactant | LiAlH4 | 2.4 mmol, 0.09 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propan-1-ol | 31 mg, 20% | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)CCCO)C(C)C)CCO | C21H31NO3
